US06573270B1
N-[1-benzyl-3-(2-hydroxyethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]-4-(tert-butyl)benzenesulfonamide
To a stirring solution of 2-{[1-benzyl-5-(bis{[4-(tert-butyl)phenyl]sulfonyl}amino)4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate (Preparation 40) (1.01 g) in ethanol (20 ml) was slowly added sodium hydroxide solution (2M, 2 ml). The reaction mixture was left stirring at room temperature overnight. The solvent was removed in vacuo and the residue was taken up in ethyl acetate (30 ml) and washed with water (15 ml) followed by brine (15 ml). It was then dried (MgSO4) and the solvent removed in vacuo to yield the crude material as a yellow oil (ca.1 g). Purification was achieved using the Biotage™ Flash 40 system (silica, 90 g) with a gradient elution of hexane (75% to 65%) and ethyl acetate (25% to 35%) to yield the title product as a yellow solid (250 mg).

reactant | 2-{[1-benzyl-5-(bis{[4-(tert-butyl)phenyl]sulfonyl}amino)4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate | 1.01 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)CC1=CC=CC=C1 | C41H47N3O7S2
reactant | sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[1-benzyl-3-(2-hydroxyethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]-4-(tert-butyl)benzenesulfonamide | 250 mg | C(C1=CC=CC=C1)N1N=C(C(=C1NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C)OCCO | C29H33N3O4S
